US05789419
2,3-Dihydro-3,3-dimethyl-7-phenylsulfonyl-1-(2-oxopyrrolidin-1-yl)-4(1H)-quinolinone (Compound No. 63):
While stirring under chilling with ice water, 220 μl of chlorobutyryl chloride were added to a solution of 550 mg of 1-amino-2,3-dihydro-3,3-dimethyl-7-phenylsulfonyl-4(1H)-quinolinone in pyridine. After stirring overnight at room temperature, the liquid reaction mixture was extracted with chloroform with the system acidified with hydrochloric acid. After the extract was dried over magnesium sulfate, chloroform was distilled off. The residue was dissolved in dimethylformamide, and 91 mg of sodium hydride were added to the solution under chilling with ice water to stir the resultant mixture at room temperature for 30 minutes. After completion of the reaction, ice water was added to the liquid reaction mixture, which was then extracted with diethyl ether. After the extract was dried over magnesium sulfate, diethyl ether was distilled off, and the residue was purified by column chromatography on silica gel to obtain 249 mg (yield: 41%) of the title compound as yellow crystals.

reactant | chlorobutyryl chloride | 220 μl | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 1-amino-2,3-dihydro-3,3-dimethyl-7-phenylsulfonyl-4(1H)-quinolinone | 550 mg | NN1CC(C(C2=CC=C(C=C12)S(=O)(=O)C1=CC=CC=C1)=O)(C)C | C17H18N2O3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,3-Dihydro-3,3-dimethyl-7-phenylsulfonyl-1-(2-oxopyrrolidin-1-yl)-4(1H)-quinolinone | 249 mg, yield: 41% | CC1(CN(C2=CC(=CC=C2C1=O)S(=O)(=O)C1=CC=CC=C1)N1C(CCC1)=O)C | C21H22N2O4S
